US04064247
3-Isothiocyanatopyridine (6.8 g.) is added to a solution of (S)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline (8.15 g.) in ethanol (150 cc.). After 3 hours at a temperature of about 20° C., the solution is cooled to 0° C. The white crystals which have appeared are filtered off and are then recrystallised from propanol (200 cc.). After filtration, the crystals are washed with propanol (2 × 10 cc.) and then dried at 60° C. under reduced pressure (1 mm. Hg). (S)-3-Hydroxymethyl-N-(pyrid-3-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide (12.1 g.) melting at 192° C is thus obtained.

reactant | 3-Isothiocyanatopyridine | 6.8 g | N(=C=S)C=1C=NC=CC1 | C6H4N2S
reactant | (S)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 8.15 g | OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | (S)-3-Hydroxymethyl-N-(pyrid-3-yl)-1,2,3,4-tetrahydroisoquinoline-2-carbothioamide | 12.1 g | OC[C@H]1N(CC2=CC=CC=C2C1)C(NC=1C=NC=CC1)=S | C16H17N3OS
